US08034812B2
Production of 3-(1-cyanocyclopropyl)-N-[3-({2-[(morpholin-4-ylacetyl)amino]imidazo[1,2-b]pyridazin-6-yl}oxy)phenyl]benzamide
Using N-[3-({2-[(chloroacetyl)amino]imidazo[1,2-b]pyridazin-6-yl}oxy)phenyl]-3-(1-cyanocyclopropyl)benzamide (140 mg, 0.287 mmol), morpholine (1 mL) and acetonitrile (2 mL) as starting materials and in the same manner as in Example 408, the title compound (123 mg, 79%) was obtained as a white powder.

reactant | N-[3-({2-[(chloroacetyl)amino]imidazo[1,2-b]pyridazin-6-yl}oxy)phenyl]-3-(1-cyanocyclopropyl)benzamide | 0.287 mmol, 140 mg | ClCC(=O)NC=1N=C2N(N=C(C=C2)OC=2C=C(C=CC2)NC(C2=CC(=CC=C2)C2(CC2)C#N)=O)C1 | C25H19ClN6O3
reactant | morpholine | 1 mL | N1CCOCC1 | C4H9NO
solvent | acetonitrile | 2 mL | C(C)#N | C2H3N
product | 3-(1-cyanocyclopropyl)-N-[3-({2-[(morpholin-4-ylacetyl)amino]imidazo[1,2-b]pyridazin-6-yl}oxy)phenyl]benzamide | 123 mg, 79% | C(#N)C1(CC1)C=1C=C(C(=O)NC2=CC(=CC=C2)OC=2C=CC=3N(N2)C=C(N3)NC(CN3CCOCC3)=O)C=CC1 | C29H27N7O4
